US05569504
1,2-dicyano-3-nitrobenzene (1.73 g) and 3-tert-butyl-hydroxybenzene (4.50 g) were allowed to react with each other at 80° C. for 2 hours in dimethylformamide (DMF, 5 ml) with the addition of K2CO3 (5.0 g). After the completion of the reaction, the reaction product was extracted twice with a mixed solvent of water and ethyl acetate (at a volumetric ratio of 1/1), and the layer extracted with ethyl acetate was dried overnight with the use of MgSO4, followed by removal of ethyl acetate by distillation. The residues were isolated and purified by silica gel column chromatography using chloroform to obtain 2.21 g of 1,2-dicyano-3-(3-tert-butylphenyloxy) benzene in a 80% yield.

reactant | 1,2-dicyano-3-nitrobenzene | 1.73 g | C(#N)C1=C(C(=CC=C1)[N+](=O)[O-])C#N | C8H3N3O2
reactant | 3-tert-butyl-hydroxybenzene | 4.50 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | K2CO3 | 5.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,2-dicyano-3-(3-tert-butylphenyloxy) benzene | 2.21 g, 80% yield | C(#N)C1=C(C(=CC=C1)OC1=CC(=CC=C1)C(C)(C)C)C#N | C18H16N2O
